US06534509B1
To a solution of hydroxylamine, hydrochloride (0.17 g, 2.5 mmol) in DMSO (3 mL) was added triethylamine (0.252 g, 2.5 mmol). The mixture was stirred at ambient temperature for 10 minutes, then filtered and washed with THF. The filtrate was concentrated in vacuo to remove the THF then treated with (trans)-1-((4-chloro-2-cyanophenoxy)methyl)carbonyl-2,5-dimethyl-4-(4-fluorobenzyl)piperazine (0.200 g, 0.48 mmol). The resulting mixture was heated to 75° C. for 20 hours. At that time the mixture was diluted with water and extracted with ethyl acetate. The organic extract was washed with water, then brine, dried over MgSO4, filtered concentrated in vacuo to afford 0.21 9 of an oil. 0.030 g of this oil was dissolved in ethyl acetate and treated with 1 M ethereal HCl solution (excess). The resulting solid was collected by filtration and washed with ethyl acetate. Drying in vacuo afforded 0.027 g of (trans)-1-((4-chloro-2-(hydroxyamidino)phenoxy)methyl)carbonyl-2,5-dimethyl-4-(4-fluorobenzyl)piperazine as a white solid; NMR (CDCl3) 7.6 (s, 1), 7.3 (t, 2), 7.2 (dd, 1), 7.0 (t, 2), 6.7 (br d, 1), 6.1 (br s, 2), 4.7 (m, 3), 3.7 (br d, 1), 3.5 (q, 2), 3.2 (m, 1), 3.0 (m, 1), 2.7 (m, 1), 2.2 (t, 1), 1.3 (m, 3), 0.9 (m, 3) ppm.

reactant | hydroxylamine, hydrochloride | 2.5 mmol, 0.17 g | Cl.NO
reactant | triethylamine | 2.5 mmol, 0.252 g | C(C)N(CC)CC | C6H15N
reactant | (trans)-1-((4-chloro-2-cyanophenoxy)methyl)carbonyl-2,5-dimethyl-4-(4-fluorobenzyl)piperazine | 0.48 mmol, 0.200 g | ClC1=CC(=C(OCC(=O)N2[C@H](CN([C@@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)C#N | C22H23ClFN3O2
reactant | HCl | 1 M | Cl | ClH
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (trans)-1-((4-chloro-2-(hydroxyamidino)phenoxy)methyl)carbonyl-2,5-dimethyl-4-(4-fluorobenzyl)piperazine | 0.027 g | ClC1=CC(=C(OCC(=O)N2[C@H](CN([C@@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)C(NO)=N | C22H26ClFN4O3
